US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-hydroxyethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (489 mg, 0.97 mmol) and ethanolamine (250 μl, 3.87 mmol) as starting materials.

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.97 mmol, 489 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | ethanolamine | 3.87 mmol, 250 μl | C(O)CN | C2H7NO
product | tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-hydroxyethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNCCO | C21H37N3O4
